US06890947B2
To a solution of 30 mmol lithium-diisopropylamide in 50 ml tetrahydrofuran were added at −78° C. 4.39 g propoxy-acetic acid ethyl ester [Journal of the American Chemical Society (1996), 118(41), 9901-9907] dissolved in 25 ml of tetrahydrofuran; after 30 min. stirring at −78° C., a solution of 3.31 g 1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-5-carbaldehyde in 30 ml tetrahydrofuran was added and after another 30 min., the reaction mixture was quenched with 25 ml H2O and then warmed up to ambient temperature. It was then extracted with ethyl acetate and the combined organic phases were washed with water, dried over magnesium sulfate and evaporated to give a light brown oil which was purified by chromatography (silicagel, eluent: gradient of n-heptane/EtOAc) to yield 4.65 g 3-hydroxy-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid ethyl ester (mixture of diasteromers) as a yellow oil.

reactant | lithium diisopropylamide | 30 mmol | [Li].C(C)(C)[N-]C(C)C
reactant | propoxy-acetic acid ethyl ester | 4.39 g | C(C)OC(COCCC)=O | C7H14O3
reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-5-carbaldehyde | 3.31 g | C[Si](CCOCN1C=CC2=CC(=CC=C12)C=O)(C)C | C15H21NO2Si
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid ethyl ester | 4.65 g | C(C)OC(C(C(C=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C)O)OCCC)=O | C22H35NO5Si
